US04855084
At 0°-3° C., 9.6 g of phthalic anhydride are added to a solution of 18 g of ethyl 10-phenyldecanoate in 100 ml of 1,2-dichloroethane, after which 26 g of aluminium chloride are added in portions over a period of 1 hour. After stirring for 20 hours at room temperature, the mixture is poured onto ice/2N hydrochloric acid and extracted with methylene chloride. Washing of the organic phase with saturated sodium chloride solution, drying and evaporation gives 25.1 g of 2-[4'-(9"-ethyoxycarbonylnonyl)benzoyl]benzoic acid as a waxy solid which can be used for the next step without purification.

reactant | phthalic anhydride | 9.6 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | ethyl 10-phenyldecanoate | 18 g | C1(=CC=CC=C1)CCCCCCCCCC(=O)OCC | C18H28O2
reactant | aluminium chloride | 26 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 2-[4'-(9"-ethyoxycarbonylnonyl)benzoyl]benzoic acid | 25.1 g | C(C)OC(=O)CCCCCCCCCC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C26H32O5
